US05436267
[Synthesis of methyl N-[2-(3-chloro-5-trifluoromethyl-2-pyridylsulfinylmethyl)phenyl]carbamate (Compound No. 60)]
0.41 g of m-chloroperbenzoic acid was added little by little to a solution of 0.75 g of N-[2-(3-chloro-5-trifluoromethyl-2-pyridylthiomethyl)phenyl]carbamate obtained in the same manner as Synthesis Example 1 (Compound No. 1) in 20 ml of methylene chloride under stirring At room temperature. After completion of the addition, the reaction was continued at room temperature for 20 hours. The reaction mixture was poured into water, subjected to extraction with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was washed with hexane. The precipitated solid was filtered off to obtain 0.66 g of the desired product (Compound No. 60) having a melting point of 160° to 162° C.

reactant | m-chloroperbenzoic acid | 0.41 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-[2-(3-chloro-5-trifluoromethyl-2-pyridylthiomethyl)phenyl]carbamate | 0.75 g | ClC=1C(=NC=C(C1)C(F)(F)F)SCC1=C(C=CC=C1)NC([O-])=O
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl N-[2-(3-chloro-5-trifluoromethyl-2-pyridylsulfinylmethyl)phenyl]carbamate | 0.66 g | ClC=1C(=NC=C(C1)C(F)(F)F)S(=O)CC1=C(C=CC=C1)NC(OC)=O | C15H12ClF3N2O3S
